US07786165B2
4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzaldehyde
1-Methylpiperazine (10.7 g, 107 mmol) was added dropwise to sodium dihydridobis(2-methoxyethoxy)aluminate (70% toluene solution, 25 g, 86.6 mmol) at 0° C. To the obtained solution was added methyl 4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzoate (1.65 g, 4.38 mmol) at 0° C. by small portions, and the mixture was further stirred at the same temperature for 1 hr. The reaction mixture was poured into 2 M hydrochloric acid, and the mixture was extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (1.40 g, yield 92%) as a yellow oil.

reactant | 1-Methylpiperazine | 107 mmol, 10.7 g | CN1CCNCC1 | C5H12N2
reactant | sodium dihydridobis(2-methoxyethoxy)aluminate | 86.6 mmol, 25 g | COCCO[Al-]OCCOC.[Na+]
reactant | methyl 4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzoate | 4.38 mmol, 1.65 g | C(C)(C)(C)C1=NN(C(=C1)CCC1=CC=CC=C1)CC1=CC=C(C(=O)OC)C=C1 | C24H28N2O2
reactant | hydrochloric acid | 2 M | Cl | ClH
product | 4-{[3-tert-butyl-5-(2-phenylethyl)-1H-pyrazol-1-yl]methyl}benzaldehyde | 1.40 g, yield 92% | C(C)(C)(C)C1=NN(C(=C1)CCC1=CC=CC=C1)CC1=CC=C(C=O)C=C1 | C23H26N2O
